US07135462B2
1-allylcyclopro-pylsulfonamide.
Example 4,1-allylcyclopropylsulfonamide, was obtained in 40% yield from N-tert-butyl-(1-allyl)cyclopropylsulfonamide according to the procedure described in the synthesis of 1-Methylcyclopropylsulfonamide. The compound was purified by column chromotography over SiO2 using 2% MeOH in CH2Cl2 as the eluent: 1H NMR (CDCl3) δ 0.88 (m, 2H), 1.37 (m, 2H), 2.66 (d, J=7.0 Hz, 2H), 4.80 (s, 2H), 5.16 (m, 2H), 5.82 (m, 1H); 13C NMR (CDCl3) δ 11.2, 35.6, 40.7, 119.0, 133.6.

reactant | N-tert-butyl-(1-allyl)cyclopropylsulfonamide | C(C)(C)(C)NS(=O)(=O)C1(CC1)CC=C | C10H19NO2S
reactant | 1-Methylcyclopropylsulfonamide | CC1(CC1)S(=O)(=O)N | C4H9NO2S
product | 1-allylcyclopro-pylsulfonamide | 40% yield | C(C=C)C1(CC1)S(=O)(=O)N | C6H11NO2S
